US09255090B2
Synthesis of 8-bromo-7-fluoro-isoquinoline (C9H5NBrF, MW=224.96)
A mixture of 2-bromo-3-fluorobenzaldehyde (4.06 g, 20 mmol, 1 eq.) and aminoacetaldehyde dimethyl acetal (2.18 mL, 20 mmol, 1 eq.) in toluene (50 mL) was stirred at 130° C. with concomitant removal of H2O (Dean-Stark) for 1 hour. The mixture was concentrated in vacuo and dried under h.v. The resulting imine was added dropwise over 20 min to hot H2SO4 (20 mL) at 140° C. After addition completion, the mixture was stirred at 130° C. for another 30 min. The mixture was allowed to cool to r.t., poured on ice (1 kg). Some black tar was removed by filtration over Celite. The filtrate was basified by addition of 32% aq. NaOH soln. The mixture was extracted with AcOEt (3×200 mL). The comb. org. phases were dried over MgSO4 and concentrated in vacuo. The residue was purified by prep. HPLC (column: Water X-Bridge, 30×75 mm, 10 um, UV/MS, acidic conditions) and concentrated in vacuo to give the title compound.

reactant | 2-bromo-3-fluorobenzaldehyde | 20 mmol, 4.06 g, 1 eq. | BrC1=C(C=O)C=CC=C1F | C7H4BrFO
reactant | aminoacetaldehyde dimethyl acetal | 20 mmol, 2.18 mL, 1 eq. | COC(CN)OC | C4H11NO2
reactant | H2O | O | H2O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 8-bromo-7-fluoro-isoquinoline | BrC=1C(=CC=C2C=CN=CC12)F | C9H5BrFN
